US09255094B2
Preparation of 1-(7,8-dichloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol (Compound No. 1-17)
A flask was charged with 7,8-dichloro-2-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (1 g, 3.9 mmol) in DMF (10 mL) and stirred for 5 min. To this was added NaH (60% in hexane) (470 mg, 11.7 mmol) and the mixture stirred at RT for 10 min. 4-(2-Methyloxiran-2-yl)pyridine (795 mg, 5.8 mmol) was added and the mixture stirred at RT for 16 h. The progress of reaction was monitored by TLC. The reaction mixture was poured into ice water and filtered. The filtrate was washed with water and concentrated. The residue was recrystallized from ether to get pure product. 1HNMR (CD3OD, Formate salt) d (ppm): 8.38 (d, 2H), 7.56 (s, 1H), 7.48 (d, 2H), 7.30 (s, 1H), 4.60 (m, 2H), 4.30 (m, 2H), 3.58 (m, 1H), 3.50 (m, 1H), 3.35 (m, 1H), 3.10 (m, 1H), 3.0 (s, 3H), 1.70 (s, 3H).

reactant | 7,8-dichloro-2-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 3.9 mmol, 1 g | ClC=1C(=CC=2C3C(NC2C1)CCN(C3)C)Cl | C12H14Cl2N2
reactant | NaH | 11.7 mmol, 470 mg | [H-].[Na+]
reactant | 4-(2-Methyloxiran-2-yl)pyridine | 5.8 mmol, 795 mg | CC1(OC1)C1=CC=NC=C1 | C8H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(7,8-dichloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol | ClC=1C(=CC=2C3=C(N(C2C1)CC(C)(O)C1=CC=NC=C1)CCN(C3)C)Cl | C20H21Cl2N3O
